US05719141
d) 2(R,S)-Hydroxymethyl-3,4-dihydro-2H1,4-benzothiazine
1.6 g of 2(R,S)-ethoxycarbonyl-3,4-dihydro-2H1,4-benzothiazine are reacted with 1.06 g of lithium borohydride in 20 ml of tetrahydrofuran. After addition of 10 ml of methanol, the mixture is concentrated and the residue is purified by means of FC over 80 g of silica gel (mobile phase S). This gives the title compound: Rf (S)=0.29.

reactant | 2(R,S)-ethoxycarbonyl-3,4-dihydro-2H1,4-benzothiazine | 1.6 g | C(C)OC(=O)C1SC2=C(NC1)C=CC=C2 | C11H13NO2S
reactant | lithium borohydride | 1.06 g | [BH4-].[Li+]
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2(R,S)-Hydroxymethyl-3,4-dihydro-2H1,4-benzothiazine | OCC1SC2=C(NC1)C=CC=C2 | C9H11NOS
